US06005116
(c) 3-(2-Dimethylaminoethoxy)-5-phenylisoxazole hydrochloride
3-(2-Dimethylaminoethoxy)-5-phenylisoxazole (130 mg) was dissolved in dioxane (1.0 ml), and a solution of 4N hydrochloric acid/dioxane (0.2 ml) was added thereto, and the resulting mixture was allowed to stand at room temperature for 15 minutes. The solvent was evaporated under reduced pressure and the residue was washed with ethyl acetate (5 ml) to obtain the title compound (148 mg, 98%) as colorless crystals.

reactant | 3-(2-Dimethylaminoethoxy)-5-phenylisoxazole | 130 mg | CN(CCOC1=NOC(=C1)C1=CC=CC=C1)C | C13H16N2O2
reactant | hydrochloric acid dioxane | 4N, 0.2 ml | Cl.O1CCOCC1
solvent | dioxane | 1.0 ml | O1CCOCC1 | C4H8O2
product | 3-(2-Dimethylaminoethoxy)-5-phenylisoxazole hydrochloride | 148 mg, 98% | Cl.CN(CCOC1=NOC(=C1)C1=CC=CC=C1)C | InChI=1S/C13H16N2O2.ClH/c1-15(2)8-9-16-13-10-12(17-14-13)11-6-4-3-5-7-11;/h3-7,10H,8-9H2,1-2H3;1H
